US06605629B1
A mixture of 2-chloro-4-(4-chlorophenyl)-5-[3-(2-methylphenoxy)propyl]oxazole (30.0 g), 2-methylimidazole (20.6 g), potassium carbonate (34.6 g), and N,N-dimethylformamide (50 ml) was stirred at 125 ° C. for 1 hour. The reaction mixture was poured into ice water (500 ml). The precipitated crystals were filtered, washed in sequence with water and isopropyl ether, and air-dried to give crude crystals of 4-(4-chlorophenyl)-2-(2-methyl-1-imidazolyl)-5-[3-(2-methylphenoxy)propyl]oxazole (34.5 g).

reactant | 2-chloro-4-(4-chlorophenyl)-5-[3-(2-methylphenoxy)propyl]oxazole | 30.0 g | ClC=1OC(=C(N1)C1=CC=C(C=C1)Cl)CCCOC1=C(C=CC=C1)C | C19H17Cl2NO2
reactant | 2-methylimidazole | 20.6 g | CC=1NC=CN1 | C4H6N2
reactant | potassium carbonate | 34.6 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 4-(4-chlorophenyl)-2-(2-methyl-1-imidazolyl)-5-[3-(2-methylphenoxy)propyl]oxazole | 34.5 g | ClC1=CC=C(C=C1)C=1N=C(OC1CCCOC1=C(C=CC=C1)C)N1C(=NC=C1)C | C23H22ClN3O2
